US08957062B2
Step F: [6-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-5-methylpyridin-3-yl]acetic acid
tert-Butyl [6-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-5-methylpyridin-3-yl]acetate (380 mg, 0.89 mmol) was treated with 3 mL of HCl (4M in dioxane) and 2 mL of water for 2 hrs at 40° C., then overnight at room temperature. The removal of the volatiles in vacuo gave the crude product which was then used for next step. LCMS (ESI) m/z 429 [M+H]+.

reactant | tert-Butyl [6-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-5-methylpyridin-3-yl]acetate | 0.89 mmol, 380 mg | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=C(C=C(C=N1)CC(=O)OC(C)(C)C)C | C27H40N4O4
reactant | HCl | 4M, 3 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
product | [6-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-5-methylpyridin-3-yl]acetic acid | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=C(C=C(C=N1)CC(=O)O)C | C23H32N4O4
